data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_325947_2,[C:1]([C:2]([N:5]([H:9])[H:11])([H:13])[H:14])([C:3](/[C:6](=[N:8]/[H:10])[H:17])([H:15])[H:16])([C:4]([H:18])([H:19])[H:20])[O:7][H:12]>>[C:1]([C:3]([C:6]([C:2]([N:5]([H:9])[H:11])([H:13])[H:14])([N:8]([H:10])[H:12])[H:17])([H:15])[H:16])([C:4]([H:18])([H:19])[H:20])=[O:7],54.28063250003149
MR_510169_0,[C:1]([C:4](=[N:6]\[H:13])/[N:8]=[C:3](/[N:2]([N:5]([H:10])[H:11])[H:9])[C:7]([H:12])([H:17])[H:18])([H:14])([H:15])[H:16]>>[C:1](/[C:4]([N:6]([H:12])[H:13])=[N:8]/[C:3]([N:2]([N:5]([H:10])[H:11])[H:9])=[C:7]([H:17])[H:18])([H:14])([H:15])[H:16],25.38237499997763
MR_34236_0,[C:1](/[N:6]=[C:3]([C:4](=[C:5](\[C:2]([H:13])([H:14])[H:15])[H:9])/[H:8])\[H:7])([H:10])([H:11])[H:12]>>[C:1]([N:6]1[C:3]([H:7])=[C:4]([H:8])[C:5]1([C:2]([H:13])([H:14])[H:15])[H:9])([H:10])([H:11])[H:12],51.47758999999248
MR_258720_0,[C:1]1([C:2]([O:5][O:6][H:9])([H:11])[H:12])([O:7][H:10])[C:3](=[O:8])[O:4]1>>[C:1](=[C:2]([H:11])[H:12])([O:4][C:3]([O:5][O:6][H:9])=[O:8])[O:7][H:10],65.09245750002123
MR_456010_1,[C:1]([C:2]([N:8]([H:10])[H:11])([H:12])[H:13])([C:5]([H:20])([H:21])[H:22])([C:6]([H:23])([H:24])[H:25])[N:7]([C:4]([H:17])([H:18])[H:19])[O:9][C:3]([H:14])([H:15])[H:16]>>[C:1]([C:5]([H:20])([H:21])[H:22])([C:6]([H:23])([H:24])[H:25])([N:7]([C:2]([N:8]([H:10])[H:11])([H:12])[H:13])[C:4]([H:17])([H:18])[H:19])[O:9][C:3]([H:14])([H:15])[H:16],64.7849825000128
MR_69582_0,[C:1]([C:2]([H:12])([H:15])[H:16])([C:3]([H:13])([H:14])[H:17])([C:5](=[O:8])[H:9])/[C:6](=[C:7](\[C:4]([H:18])([H:19])[H:20])[H:11])[H:10]>>[C:1]([C:2]([H:12])([H:15])[H:16])([C:3]([H:13])([H:14])[H:17])=[C:6]([C:7]([C:4]([H:18])([H:19])[H:20])([C:5](=[O:8])[H:9])[H:11])[H:10],57.44762500002551
MR_453152_1,[C:1]1([N:4]([H:10])[H:11])([H:9])[C:3](=[O:7])[N:2]([H:8])[N:5]=[N:6]1>>[C:1]1([N:4]([H:10])[H:11])([H:9])[C:3](=[O:7])[N:6]1/[N:5]=[N:2]/[H:8],60.30839750000794
MR_84240_0,[C:1]1([H:8])([H:9])[C:2]([O:5][H:7])=[C:4]([H:11])[C:3]([H:10])=[N:6]1>>[C:1]1([H:8])([H:9])[C:2]2([O:5][H:7])[C:4]([H:11])=[C:3]([H:10])[N:6]12,70.51343000003158
MR_307713_1,[C:1](/[C:3]([O:6][C:2]([N:4]([H:8])[H:9])=[C:5]([H:14])[H:15])=[N:7]/[H:10])([H:11])([H:12])[H:13]>>[C:1](/[C:3]([C:5]([C:2]([N:4]([H:8])[H:9])=[O:6])([H:14])[H:15])=[N:7]/[H:10])([H:11])([H:12])[H:13],42.77730250000417
MR_69177_0,[C:1]([C:3]([H:15])([H:16])[H:17])([N:4]([C:2]([H:12])([H:13])[H:14])[H:9])(/[N:7]=[C:5](\[O:6][H:8])[H:11])[H:10]>>[C:1](\[C:3]([H:15])([H:16])[H:17])(=[N:7]/[C:5]([N:4]([C:2]([H:12])([H:13])[H:14])[H:9])([O:6][H:8])[H:11])[H:10],57.51665000002959
MR_18164_1,[C:1](/[C:3](=[C:2](/[C:4](=[C:5]([H:12])[H:13])[H:8])[H:6])[H:7])([H:9])([H:10])[H:11]>>[C:1]([C@@:3]1([H:7])[C:2]([H:6])=[C:4]([H:8])[C:5]1([H:12])[H:13])([H:9])([H:10])[H:11],47.56450000000953
MR_585888_1,[C:1]([N:3]([C:4]([C:2]([H:13])([H:14])[H:15])=[O:7])/[C:5](=[N:6]/[H:8])[H:9])([H:10])([H:11])[H:12]>>[C:1](/[N:3]=[C:4](\[C:2]([H:13])([H:14])[H:15])[O:7]/[C:5](=[N:6]/[H:8])[H:9])([H:10])([H:11])[H:12],53.13481750003518
MR_279581_1,[C:1]([C:2]([O:8][C:5]([C:3]([H:16])([H:17])[H:18])([C:6]([N:7]([H:12])[H:13])=[O:10])[O:9][H:21])([H:14])[H:15])(=[C:4]([H:19])[H:20])[H:11]>>[C:1]([C:2]([O:8][C:5]([C:3]([H:16])([H:17])[H:18])=[O:9])([H:14])[H:15])([C:4]([H:19])([H:20])[H:21])([C:6]([N:7]([H:12])[H:13])=[O:10])[H:11],65.37357749995351
MR_312924_0,[C:1]([C:4]([H:19])([H:20])[H:21])([C:6]([N:5]([C:2]([H:13])([H:14])[H:15])[C:3]([H:16])([H:17])[H:18])=[O:9])([N:7]([H:11])[H:12])[O:8][H:10]>>[C:1]([C:6]([C:4]([H:19])([H:20])[H:21])([N:5]([C:2]([H:13])([H:14])[H:15])[C:3]([H:16])([H:17])[H:18])[O:9][H:10])([N:7]([H:11])[H:12])=[O:8],55.10453999998447
MR_194433_0,[C:1]([C:2](=[O:6])[H:8])(=[C:4]([H:10])[H:11])[O:5][C:3](=[O:7])[H:9]>>[C:1]([C:2](=[O:6])[H:8])([C:4]([C:3](=[O:7])[H:9])([H:10])[H:11])=[O:5],47.95606000001968
MR_578955_0,[C:1]1([H:9])=[N:7][C:3]([C:2]([H:12])([H:13])[H:14])([O:6][H:8])[C:5]([H:11])=[C:4]1[H:10]>>[C:1]1([O:6][H:8])([H:9])[C:4]([H:10])=[C:5]([H:11])[C:3]([C:2]([H:12])([H:13])[H:14])=[N:7]1,70.72050500000813
MR_356404_0,[C:1]([N:6]/[N:5]=[C:3](\[C:4]([C:2]([H:13])([H:14])[H:15])=[O:8])[N:7][H:9])([H:10])([H:11])[H:12]>>[C:1]([N:6]([C:4]([C:2]([H:13])([H:14])[H:15])=[O:8])[N:5][C:3][N:7][H:9])([H:10])([H:11])[H:12],49.90946749997448
MR_502358_0,[C:1]([N:3](/[C:4]([C:2]([H:14])([H:15])[H:16])=[N:6]/[H:8])/[C:5](=[N:7]/[H:9])[H:10])([H:11])([H:12])[H:13]>>[C:1](/[N:3]=[C:4](\[C:2]([H:14])([H:15])[H:16])[N:6](/[C:5](=[N:7]/[H:9])[H:10])[H:8])([H:11])([H:12])[H:13],47.43962750000378
MR_59029_1,[C:1]([N:2]([C:3]([C:4](=[O:7])[H:9])=[O:6])[O:5][H:8])([H:10])([H:11])[H:12]>>[C:1]([N:2]([C:4]([C:3](=[O:6])[H:9])=[O:7])[O:5][H:8])([H:10])([H:11])[H:12],71.85816249998936
MR_109146_0,[C:1](/[C:2](=[N:5]/[H:11])[H:9])([N:4]([C:3]([H:12])([H:13])[H:14])[H:8])([O:6][H:10])[H:7]>>[C:1]1([N:4]([C:3]([H:12])([H:13])[H:14])[H:8])([H:7])[C:2]([N:5]([H:10])[H:11])([H:9])[O:6]1,42.21757249999058
